US07799822B2
Prepared using general procedure 62: To chlorosulfonic acid (2.0 mL) at 0° C. under N2 was added (S)-3-(4-chloro-5-fluoroindolin-1-yl)-1-phenylpyrrolidin-2-one (1.92 g, 5.8 mmol) in portions. The reaction mixture was heated to 60° C. for 20 min. and, after cooling to RT, carefully poured onto ice-water. EtOAc was added, the phases were separated, and the aqueous layer was extracted with EtOAc (2×). The combined organic extracts were dried over MgSO4 and concentrated to give 4-((S)-3-(4-chloro-5-fluoroindolin-1-yl)-2-oxopyrrolidin-1-yl)benzene-1-sulfonyl chloride which was used without further purification. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=429.3; tR=2.14 min.

reactant | chlorosulfonic acid | 2.0 mL | ClS(=O)(=O)O | ClHO3S
reactant | (S)-3-(4-chloro-5-fluoroindolin-1-yl)-1-phenylpyrrolidin-2-one | 5.8 mmol, 1.92 g | ClC1=C2CCN(C2=CC=C1F)[C@@H]1C(N(CC1)C1=CC=CC=C1)=O | C18H16ClFN2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-((S)-3-(4-chloro-5-fluoroindolin-1-yl)-2-oxopyrrolidin-1-yl)benzene-1-sulfonyl chloride | ClC1=C2CCN(C2=CC=C1F)[C@@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)Cl)=O | C18H15Cl2FN2O3S
